US06329370B1
4-Furan-2-ylmethyl-7-methoxy-2H-phthalazin-1-one (Compound 76)
A mixture of (5-methoxy-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-triphenyl-phosphonium bromide (8 g, 15.83 mmoles), prepared as described in example 36, CH2Cl2 (100 ml) and furfural (1.31 ml, 15.83 mmoles), cooled in ice and under N2, was dropwise added with triethylamine (2.2 ml, 15.83 mmoles). The cooling was removed and the mixture was stirred for 1.5 hours, then washed with water, anhydrified over Na2SO4 and dried. The residue was dissolved in CH3OH (50 ml) and added with hydrazine monohydrate (2.3 ml, 47.49 mmoles). The mixture was refluxed for 1 hour, then concentrated to half volume. A precipitate crystallised and dried under vacuum at 40° C. gave 1.82 g of the title compound (yield: 45%).

reactant | (5-methoxy-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-triphenyl-phosphonium bromide | 15.83 mmoles, 8 g | [Br-].COC=1C=C2C(OC(C2=CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | furfural | 15.83 mmoles, 1.31 ml | C(C1=CC=CO1)=O | C5H4O2
reactant | triethylamine | 15.83 mmoles, 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | hydrazine monohydrate | 47.49 mmoles, 2.3 ml | O.NN
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-Furan-2-ylmethyl-7-methoxy-2H-phthalazin-1-one | 1.82 g, yield: 45% | O1C(=CC=C1)CC1=NNC(C2=CC(=CC=C12)OC)=O | C14H12N2O3
